US06265446B1
A solution of 0.918 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide in 10 ml of dichloromethane was treated with 0.202 ml of pyridine and 0.354 g of 3-chloropropanesulphonyl chloride. The mixture was stirred for 2 hours at room temperature. A further 0.177 g of 3-chloropropanesulphonyl chloride and 0.160 ml of pyridine were added and the mixture was stirred for a further 2 hours at room temperature. Evaporation gave a residue which was dissolved in ethyl acetate and washed in sequence with water, 5% aqueous citric acid, water, 5% aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride. Drying over anhydrous magnesium sulphate, evaporation, and trituration with ether/hexane gave a residue which was purified by column chromatography on silica gel using hexane/ethyl acetate (6:4) for the elution, to give 0.8 g of (E)-2′-(3-chloropropylsulphonyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide in the form of a pale yellow solid.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.918 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNCC(C)C)CC(C)C | C26H41N3O4
reactant | pyridine | 0.202 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-chloropropanesulphonyl chloride | 0.354 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | 3-chloropropanesulphonyl chloride | 0.177 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | pyridine | 0.160 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2′-(3-chloropropylsulphonyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.8 g | ClCCCS(=O)(=O)N(NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(NOC1OCCCC1)=O)=O)CC(C)C | C29H46ClN3O6S
